US07960409B2
Step 2: (S)-1-(1-{[4-(bromoacetyl)-2-cyanoquinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate
To a solution of (S)-1-(1-{[2-cyano-4-(1-ethoxyvinyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate (593 mg, 1.05 mmol) in THF (4 ml) and water (0.25 ml) was added NBS (205 mg, 1.16 mmol). The mixture was stirred at room temperature for 30 min. The solution was then evaporated to dryness and purified by flash chromatography (eluting solvent: 3% acetone in dichloromethane) to afford the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.55 (s, 1H), 8.50 (s, 1H), 8.40 (d, 2H), 8.37 (d, 1H), 8.30 (d, 2H), 8.07 (s, 1H), 7.85 (d, 1H), 6.05 (s, 2H), 5.05 (s, 2H), 3.05 (m, 1H), 2.85 (m, 1H), 1.15 (t, 3H).

reactant | (S)-1-(1-{[2-cyano-4-(1-ethoxyvinyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate | 1.05 mmol, 593 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)C(=C)OCC)C=C1 | C28H23F3N6O5
reactant | NBS | 1.16 mmol, 205 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 0.25 ml | O | H2O
product | (S)-1-(1-{[4-(bromoacetyl)-2-cyanoquinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)C(CBr)=O)C=C1 | C26H18BrF3N6O5
